US07759337B2
Ethyl 3-(1-hydroxyphthalazin-6-yl)-4-methylbenzoate (5.5 g) was suspended in acetonitrile (50 mL), and was treated with phosphorus oxychioride (3 mL, 36 mmol). The mixture was stirred at 90° C. for 4 h. The mixture was concentrated to remove all solvent, and redissolved in ethyl acetate (200 mL). The organic solution was washed with water (3×20 mL), brine (20 mL), and was dried over anhydrous Na2SO4, and concentrated in vacuo to give ethyl 3-(1-chlorophthalazin-6-yl)-4-methylbenzoate as a pale yellow solid.

reactant | Ethyl 3-(1-hydroxyphthalazin-6-yl)-4-methylbenzoate | 5.5 g | OC1=NN=CC2=CC(=CC=C12)C=1C=C(C(=O)OCC)C=CC1C | C18H16N2O3
reactant | phosphorus oxychioride | 36 mmol, 3 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | ethyl 3-(1-chlorophthalazin-6-yl)-4-methylbenzoate | ClC1=NN=CC2=CC(=CC=C12)C=1C=C(C(=O)OCC)C=CC1C | C18H15ClN2O2
